US07368578B2
To a solution of tetraethyl methylenediphosphonate (357 mg) in N,N-dimethylformamide (5 mL) was added sodium hydride (60% in oil, 54 mg), and the mixture was stirred at room temperature for 20 min. To the reaction mixture was added a solution of N-(4-formyl-1-phenyl-1H-pyrazol-3-yl)-2-{3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenyl}acetamide (590 mg) in N,N-dimethylformamide (5 mL), and the mixture was stirred at room temperature for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:1 to 1:0, v/v) to give diethyl (E)-2-{3-[({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenyl}acetyl)amino]-1-phenyl-1H-pyrazol-4-yl}ethenylphosphonate as colorless amorphous form (159 mg, yield 21%).

reactant | tetraethyl methylenediphosphonate | 357 mg | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | sodium hydride | 54 mg | [H-].[Na+]
reactant | N-(4-formyl-1-phenyl-1H-pyrazol-3-yl)-2-{3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenyl}acetamide | 590 mg | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)NC(CC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC)=O | C30H26N4O5
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | diethyl (E)-2-{3-[({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenyl}acetyl)amino]-1-phenyl-1H-pyrazol-4-yl}ethenylphosphonate | yield 21% | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CC(=O)NC1=NN(C=C1/C=C/P(OCC)(OCC)=O)C1=CC=CC=C1 | C35H37N4O7P
